US07202350B2
Aluminum chloride (8.9 g) and 4-ethylbenzoylchloride (5.96 g) were added to a solution of 2-bromothiophene (3.2 ml) in dichloromethane (50 ml) at 0° C., and the mixture was stirred for four hours at room temperature. 10% hydrochloric acid was added to the reaction mixture, and extracted with ethyl acetate. The organic layer was washed with water- and saturated saline solution in order and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated from the filtrate under reduced pressure to give the residue. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (5-bromo-2-thienyl)(4-ethylphenyl) methanone (8.97 g). Borontrifluoride diethyl ether complex (1.57 ml) and triethylsilane (3.83 ml) were added to a solution of (5-bromo-2-thienyl) (4-ethylphenyl) methanone in acetonitrile (20 ml) at −40° C., and the mixture was stirred for two hours. Aqueous solution of saturated potassium carbonate was added to the reaction mixture, and extracted with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated from the filtrate under reduced pressure to give the residue, and the residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain 2-bromo-(4-ethylbenzyl)thiophene (6.78 g).

reactant | Aluminum chloride | 8.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-ethylbenzoylchloride | 5.96 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | 2-bromothiophene | 3.2 ml | BrC=1SC=CC1 | C4H3BrS
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (5-bromo-2-thienyl)(4-ethylphenyl) methanone | 8.97 g | BrC1=CC=C(S1)C(=O)C1=CC=C(C=C1)CC | C13H11BrOS
